Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Post-traumatic seizure, assault
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ y/o man with PMH of HTN and DJD who was
transferred from ___ after a seizure in the setting of
intoxication and trauma. Mr. ___ was at a party on ___
night to celebrate ___. He drank many
drinks, he estimates over 10. At approx. 0300 (he isn't sure
exactly what time), he was punched in the L face by his brother.
Mr. ___ remembers nothing after that point until arriving at
___.

Records indicate that he presented to ___ at 0545, and
quickly thereafter left AMA. While walking out, he is reported 
to
have had a seizure. No description is available. He was
readmitted at 0630 and received 1g levetiracetam. He then had
workup including normal basic labs, EtOH level of 177, UDS
positive for cocaine, and unremarkable NCHCT. He remained
postictal/intoxicated and was transferred to ___ where
neurologic consultation was available.

Mr. ___ states he has never had a seizure. He is a retired
___ who has sustained several head injuries, including being
hit in the head by a shovel and having his nose broken and
reconstructed. He also mentioned that he had "mini-strokes"
several years ago, was on full-dose aspirin, then was found to
have DVT and treated with anticoagulants. Per pt, he should 
still
be on full-dose aspirin daily but is not. Unclear how reliable
patient was as he became very tangential when he gave this
history; this story will need follow-up. 

PERTINENT ED COURSE:
- Exam notable for: Asymmetric swelling of left side of his face
- Labs notable for:
# ALT 137, AST 96, urine cocaine +
# CBC, coags, CMP WNL
- Imaging was notable for: CXR, Lumbar spine XR, CT head, CTA
head/neck w/o acute abnormalities
- Patient was given: acetaminophen 1000mg x2, ibuprofen

In the ED, pt was seen by neurology who felt seizure likely
provoked in setting of substance use and acute trauma. No need
for anti-epileptic therapy. Felt to have severe concussion.
Physical therapy evaluated and continues to require assist for
all mobility, recommending rehab and were unable to obtain
placement in the ED. Admitted for rehab placement.

 
Upon arrival to the floor, the patient reports head, neck, and
back pain as well as blurry vision and some nausea. States he 
has
never had EtOH withdrawal seizures/hospitalization, but does get
anxious sometimes when he does not drink. He reports current low
back pain, slightly worse than his baseline LBP from lumbar DJD.
 
REVIEW OF SYSTEMS: Positive as above
General: no weight loss, fevers, sweats.  
Eyes: blurry vision
ENT:  no odynophagia, dysphagia, neck stiffness.  
Cardiac: no chest pain, palpitations, orthopnea. 
Resp: no shortness of breath or cough.  
GI: no vomiting, diarrhea, melena  
GU: no dysuria, frequency, urgency.  
Neuro: no unilateral weakness, numbness, headache.  
MSK: no myalgia  
Heme: no bleeding or easy bruising.  
Lymph: no swollen lymph nodes.  
Integumentary: no new skin rashes or lesions.  
Psych: no mood changes  
 
Past Medical History:
# HTN
# Cervical and lumbar DJD
# OA
# Nose fx in early 1990s
# ?"Mini-strokes"
# DVT ___ s/p anticoag tx
 
Social History:
___
Family History:
# Mother with HTN
# ___ ___ with DM and CAD
# Maternal aunt with DM

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: T 97.6|BP 144/82|HR 60|RR 18|Sat 97%Ra
GENERAL: Overweight, plethoric, friendly, NAD, somewhat
tangential answers to questions
EYES: PERRL, EOMI
ENT: Slight swelling on L upper face, bruising under L eye, neck
supple, no lymphadenopathy. oropharynx clear. 
CV: RRR, no m/r/g
RESP: CTABL
GI: distended abdomen, non-tender, TTP in RUQ, no
rebound/guarding
GU: deferred, no foley
EXT: warm, well-perfused, no edema, 2+ pulses
SKIN: no rashes, minor abrasion on L hand
NEURO: AOx3, moving all limbs purposefully
PSYCH: normal affect and behavior

DISCHARGE PHYSICAL EXAM:
========================
VITALS: T 98.1, HR 60, BP 148/93, RR 18, O2 98% RA
GENERAL: NAD, sitting upright in bed
HEENT: PERRL, EOMI, residual minor swelling over left maxilla 
and
periorbital ecchymosis 
NECK: supple
CV: RRR, S1/S2, no m/r/g
RESP: CTAB
GI: soft, non-tender, non-distended, normoactive BS
NEURO: awake, alert, oriented x3
 
Pertinent Results:
PERTINENT LABS:
===============
___ 07:35PM BLOOD WBC-7.4 RBC-4.75 Hgb-14.6 Hct-42.9 MCV-90 
MCH-30.7 MCHC-34.0 RDW-13.1 RDWSD-43.2 Plt ___
___ 07:35PM BLOOD Glucose-94 UreaN-12 Creat-1.0 Na-140 
K-4.1 Cl-104 HCO3-25 AnGap-15
___ 07:35PM BLOOD ALT-137* AST-96* AlkPhos-80 TotBili-0.8
___ 07:35PM BLOOD Albumin-3.9 Calcium-8.3* Phos-3.9 Mg-2.3
___ 05:30AM BLOOD HBsAg-NEG HBcAb-NEG
___ 05:50AM BLOOD HBsAb-NEG
___ 07:35PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 05:50AM BLOOD ALT-119* AST-80*

IMAGING/STUDIES:
================
CT HEAD ___:
1. Normal study.

CTA HEAD/NECK ___:
Mild narrowing of the bilateral paraclinoid ICA.  Otherwise 
normal CTA head, neck. Suggestion of subtle nasal bone fracture, 
of indeterminate age. Mild nasal soft tissue swelling, also 
involving left medial canthus, may be posttraumatic or 
inflammatory, clinically correlate.  There are no fluid 
collections. Mild mucosal thickening of the paranasal sinuses. 
Probable severe central canal narrowing of the cervical spine, 
degenerative changes. 

L-SPINE XRAY ___:
Normal lumbar spine x-ray examination.

CXR ___
No evidence of pneumonia or other acute findings.
 
Brief Hospital Course:
___ male admitted for seizure in the context of facial 
trauma and alcohol and cocaine co-ingestion found to have TBI 
complicated by physical and cognitive deficits.
 
ACUTE ISSUES:
#) Provoked seizure: patient was evaluated by neurology and his 
seizure was deemed to be provoked in the setting of trauma, 
alcohol intoxication, and sleep deprivation. No antiepileptic 
agents were recommended. Urine tox screen positive for cocaine 
too.  CT head and CTA head/neck reassuring.  No further imaging 
recommended in that regard. 

#) Traumatic Brain Injury: Moderate TBI due to assault with 
post-traumatic amnesia among other marked cognitive and physical 
deficits. As a former ___, neurology recommended avoidance of 
contact sports until cleared. ___ recommended acute rehab on 
account of aforementioned deficits. Patient should call after 
discharge from rehab to follow up in ___ clinic. 

#) EtOH abuse, cocaine use. reportedly, numerous episodes 
excessive alcohol use as well as prior cocaine use. No history 
of seziures/hospitalizations related to alcohol withdrawal, but 
reports anxiety when abstaining from use.  Monitored on CIWA 
during hospitalization; required diazepam once for withdrawal. 

CHRONIC ISSUES:
#) HTN: stable throughout admission.  Home propranolol 
continued.
#) Back pain: long history of osteoarthritis of spine. Patient 
reported exacerbation of pain during this admission. Lumbar 
films were not indicative of acute fracture.  Patient received 
non-opioid analgesia as needed.

TRANSITIONAL ISSUES:
[] Please help patient facilitate follow-up in concussion clinic 
following discharge from rehab
[] No contact sports/activities until cleared by outpatient 
providers
[] Would benefit from continued discussion about ETOH and 
cocaine abstinence
[] Hepatitis B non-immune; please consider vaccination series

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Propranolol 10 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  FoLIC Acid 1 mg PO DAILY  
3.  Multivitamins 1 TAB PO DAILY  
4.  Naproxen 500 mg PO Q12H:PRN Pain - Mild 
Do not use for > 3 weeks   
5.  Thiamine 100 mg PO DAILY  
6.  Propranolol 10 mg PO BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Traumatic brain injury
Seizure, provoked
Alcohol use disorder
Cocaine use disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___.

Why was I in the hospital?
 - You were admitted for the seizure and concussion which you 
sustained after getting struck in the face while drinking and 
using cocaine.

What was done while I was in the hospital?
 - Images of your brain were taken (CT scan) that showed acute 
injury following the punch to your head. These pictures were 
reassuring that there was no bleeding in your brain.
 - You were started on Tylenol and ibuprofen for your pain. 
 - You were monitored and treated for withdrawal from alcohol or 
cocaine.
 - Our therapists recommended rehab to help you recover.

What should I do when I go home?
 - Avoid contact sports until cleared by your doctor.
 - It is very important that you take your prescribed 
medications.
 - Please go to your scheduled appointment with your primary 
doctor.
 - If you have signs of facial droop, distorted speech, numbness 
or weakness, please tell your primary doctor or go to the 
emergency room.

Best wishes, 
 Your ___ team
 
Followup Instructions:
___